US07470679B2
3-(Piperazin-1-yl)-3,4-dihydroquinolin-2(1H)-one
tert-Butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)piperazine-1-carboxylate (640 mg, 1.9 mmol) was reacted in a manner analogous to the preparation of 3-(piperidin-4-yl)-3,4-dihydroquinolin-2(1H)-one. Title compound was obtained as light brown solid in quantitative yield. MS m/e (M+H)+=232.4.

reactant | tert-Butyl 4-(2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)piperazine-1-carboxylate | 1.9 mmol, 640 mg | O=C1NC2=CC=CC=C2CC1N1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O3
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinolin-2(1H)-one | N1CCC(CC1)C1C(NC2=CC=CC=C2C1)=O | C14H18N2O
product | 3-(Piperazin-1-yl)-3,4-dihydroquinolin-2(1H)-one | quantitative yield | N1(CCNCC1)C1C(NC2=CC=CC=C2C1)=O | C13H17N3O
